US08071768B2
To a solution of 4-isopropylphenylacetic acid (36 mg, 0.2 mmol) in anhydrous DCM (1 mL) was added PS-carbodiimide (100 mg, 0.3 mmol) and the mixture was shaken at rt for 15 min. Then, a solution of 6,7-dimethoxy-4-piperidin-4-yl-quinazoline (27.5 mg, 0.1 mmol), as prepared in Example 1d, in anhydrous DMF (1 mL) was added to the mixture and it was shaken overnight at rt. It was then filtered and the resin was washed with THF/DCM and the combined filtrate and washings were concentrated in vacuo. The crude product was purified by flash column chromatography (silica gel, 1% MeOH/DCM) to yield 13.4 mg (31%) of pure 1-[4-(6,7-dimethoxy-quinazolin-4-yl)-piperidin-1-yl]-2-(4-isopropyl-phenyl)-ethanone. 1H-NMR (300 MHz, CDCl3): δ 9.06 (s, 1H), 7.39 (s, 1H), 7.26 (s, 1H), 7.23-7.19 (m, 4H), 4.82 (d, 1H), 4.17-4.00 (m, 7H), 3.76 (m, 2H), 3.57 (m, 1H), 3.23 (m, 1H), 2.96-2.80 (m, 2H), 2.06-1.80 (m, 4H), 1.23 (d, 6H). LC/MS (ESI): calcd mass 433.2, found 434.4 (MH)+.

reactant | 4-isopropylphenylacetic acid | 0.2 mmol, 36 mg | C(C)(C)C1=CC=C(C=C1)CC(=O)O | C11H14O2
reactant | carbodiimide | 0.3 mmol, 100 mg | N=C=N | CH2N2
reactant | 6,7-dimethoxy-4-piperidin-4-yl-quinazoline | 0.1 mmol, 27.5 mg | COC=1C=C2C(=NC=NC2=CC1OC)C1CCNCC1 | C15H19N3O2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 1-[4-(6,7-dimethoxy-quinazolin-4-yl)-piperidin-1-yl]-2-(4-isopropyl-phenyl)-ethanone | 13.4 mg, 31% | COC=1C=C2C(=NC=NC2=CC1OC)C1CCN(CC1)C(CC1=CC=C(C=C1)C(C)C)=O | C26H31N3O3
